US04899249
N,N-Diethyl Perfluorobutane Sulfonamide
Under a blanket of nitrogen, a mixture of 55 g (0.180 moles) of perfluorobutane sulfonyl fluoride and 70.7 g (0.970 moles) of diethylamine was heated at reflux for nine hours. The reaction mixture was dissolved in 600 ml of ether and percolated through a column of 60 g of acidic alumina. The ether was stripped and the product was distilled at 56°-58° C. at 2.0 mm. Yield 41.6 g (65%).

reactant | perfluorobutane sulfonyl fluoride | 0.180 moles, 55 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | diethylamine | 0.970 moles, 70.7 g | C(C)NCC | C4H11N
solvent | ether | 600 ml | CCOCC | C4H10O
product | N,N-Diethyl Perfluorobutane Sulfonamide | C(C)N(S(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)CC | C8H10F9NO2S
